US06800627B1
1-(6-Chloro-5-fluoroindol-1-yl)-2-ethylamine
Tetra-n-butylammonium hydrogensulfate (0.1 g, 0.33 mmol), powdered sodium hydroxide (1.3 g, 33 mmol) and 6-chloro-5-fluoroindole (1.4 g, 8.3 mmol) were stirred at room tempera in acetonitrile (40 mL) for 1 h. 2-Chloroethylamine hydrochloride (1.45 g, 12.5 mmol) was then added in 1 portion and the reaction was heated to reflux and stirred for 36 h. After allowing to cool to room temperature the mixture was poured into water (100 mL) and extracted with ethyl acetate (3×70 mL). The combined organic extracts were washed with brine (1×100 mL), dried (magnesium sulfate), filtered and the solvent removed under vacuo to leave a crude oil. The oil was purified by flash column chromatography [SiO2; ethyl acetate-methanol-ammonium hydroxide, (90:9:1)] to give the product as an orange oil (1.4 g, 80%). IR νmax (film)/cm−1 3377, 3104, 2937, 2868, 1675, 1568, 1505, 1479, 1449, 1400, 1357, 1327, 1291, 1236, 1143, 1090, 1030, 994, 862, 817, 753, 717, 698, 678, 646, 633, 596 and 579; NMR δH (400 MHz; DMSO-d6) 7.79 (1H, d, J 7 Hz), 7.51 (1H, d, J 10 Hz), 7.50 (1H, d, J 3.5 Hz), 6.46 (1H, m), 4.13 (2H, t, J 6.3 Hz), 2.86 (2H, t, J 6.3 Hz), 1.52 (1H, br. s).

reactant | sodium hydroxide | 33 mmol, 1.3 g | [OH-].[Na+]
reactant | 6-chloro-5-fluoroindole | 8.3 mmol, 1.4 g | ClC1=C(C=C2C=CNC2=C1)F | C8H5ClFN
reactant | 2-Chloroethylamine hydrochloride | 12.5 mmol, 1.45 g | Cl.ClCCN
reactant | water | 100 mL | O | H2O
catalyst | Tetra-n-butylammonium hydrogensulfate | 0.33 mmol, 0.1 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 1-(6-Chloro-5-fluoroindol-1-yl)-2-ethylamine | 1.4 g, 80% | ClC1=C(C=C2C=CN(C2=C1)CCN)F | C10H10ClFN2
